US09359362B2
N2-Acetyl-N-[(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]glycinamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (13 mg, 28 μmol) was dissolved in abs. pyridine (2.0 ml). At room temperature, acetamidoacetyl chloride (8 mg, 57 μmol, 2 eq.) was added. After 12 h, analysis of the reaction by HPLC showed substantial conversion. The reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Kromasil C18 column, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (9.6 mg, 65% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 28 μmol, 13 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | acetamidoacetyl chloride | 57 μmol, 8 mg, 2 eq. | C(C)(=O)NCC(=O)Cl | C4H6ClNO2
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | N2-Acetyl-N-[(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]glycinamide | C(C)(=O)NCC(=O)NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C25H19F3N8O2
